US04622418
1-(2-Nitro-2-methylpropoxy)-2,2,5,5-tetramethylcyclopentane is dissolved in methanol and hydrogenated at 50 psi with Raney nickel T-1 as a catalyst. The reaction mixture is filtered through Celite and evaporated to yield 1-(2-amino-2-methylpropoxy)-2,2,5,5-tetramethylcyclopentane.

reactant | 1-(2-Nitro-2-methylpropoxy)-2,2,5,5-tetramethylcyclopentane | [N+](=O)([O-])C(COC1C(CCC1(C)C)(C)C)(C)C | C13H25NO3
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 1-(2-amino-2-methylpropoxy)-2,2,5,5-tetramethylcyclopentane | NC(COC1C(CCC1(C)C)(C)C)(C)C | C13H27NO
